US06350892B1
[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]acetic Acid
A solution of methyl [4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]acetate (4.36 g, 9.4 mmol) in 80% aqueous ethanol (100 ml) was treated with potassium hydroxide (2 g) and the resulting mixture was heated at 50° C. for 2 h. The solvent was then evaporated in vacuo. Ice water and ethyl acetate were added and the aqueous phase was carefully adjusted to pH4 with 1N hydrochloric acid. The organic phase was then washed with brine, dried (magnesium sulfate) and evaporated under reduced pressure to give a white solid. Recrystallization from hexane gave 3.41 g (81%) of the title acid as white crystals: mp 87-88° C.

reactant | methyl [4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]acetate | 9.4 mmol, 4.36 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(=O)OC)C=C1 | C28H34O4Si
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]acetic Acid | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(=O)O)C=C1 | C27H32O4Si
